US08440830B2
A solution of methyl 2-({2-[(tert-butoxycarbonyl)amino]phenyl}carbamoyl)-N-phenyl-6,7-dihydro[1,3]thiazolo[5,4-c]pyridine-5(4H)-carbimidothioate obtained form step I (1 eq), and methylamine HCl (60 eq) in DMF was heated at 50° C. in a sealed tube for 72 h. Solvent was evaporated and the residue was purified by either column chromatography or preparative HPLC to afford the tert-butyl {2-[({5-[(E)-(methylamino)(phenylimino)methyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-yl}carbonyl)amino]phenyl}carbamate

reactant | methyl 2-({2-[(tert-butoxycarbonyl)amino]phenyl}carbamoyl)-N-phenyl-6,7-dihydro[1,3]thiazolo[5,4-c]pyridine-5(4H)-carbimidothioate | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C=1SC=2CN(CCC2N1)C(=NC1=CC=CC=C1)SC | C26H29N5O3S2
reactant | methylamine HCl | 60 eq | Cl.CN
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl {2-[({5-[(E)-(methylamino)(phenylimino)methyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-yl}carbonyl)amino]phenyl}carbamate | CN\C(\N1CC2=C(CC1)N=C(S2)C(=O)NC2=C(C=CC=C2)NC(OC(C)(C)C)=O)=N/C2=CC=CC=C2 | C26H30N6O3S
